US06743776B2
To a solution of 1-hydroxybenzotriazole (5.35 g) and 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoic acid hydrochloride (15 g) in the mixture of triethylamine (9.64 ml) and dichloromethane (450 ml) was added 1-ethyl-3-(3′-dimethylaminopropyl) carbodiimide hydrochloride (WSCD.HCl) (12.6 g) and stirred for 4 hours at ambient temperature. The reaction mixture was added to water. The organic layer was taken and dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 1-[4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoyloxy]benzotriazole (16.78 g).

reactant | 1-hydroxybenzotriazole | 5.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoic acid hydrochloride | 15 g | Cl.C(CCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1
reactant | triethylamine | 9.64 ml | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl) carbodiimide hydrochloride | 12.6 g | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
product | 1-[4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoyloxy]benzotriazole | 16.78 g | C(CCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)ON2N=NC3=C2C=CC=C3)C=C1 | C29H33N5O3
